US09290468B2
Step 5: methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate
To a solution of methyl 4-azido-5-(benzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate (9.84 g, 22.23 mmol) in MeOH (200 mL) was added and 10% palladium on carbon (1.55 g) under nitrogen atmosphere. Then the nitrogen atmosphere was completely changed to hydrogen atmosphere. The mixture was stirred for 2 h at ambient temperature. After the insoluble matter was filtered off, the solvent was evaporated in vacuo to give the desired product (9.26 g, 100%). 1H NMR (400 MHz, DMSO-d6): δ 8.94 (s, 1H), 7.54 (s, 1H), 7.45 (m, 1H), 7.24 (m, 6H), 6.95 (m, 1H), 6.77 (m, 1H), 6.27 (s, 2H), 3.95 (s, 2H), 3.73 (s, 3H).

reactant | methyl 4-azido-5-(benzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate | 22.23 mmol, 9.84 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)Cl)F | C21H16ClFN4O2S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | palladium on carbon | 1.55 g | [Pd] | Pd
product | methyl 4-amino-5-(benzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate | 9.26 g, 100% | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=CC=C1)NC1=C(C=CC=C1)Cl)F | C21H18ClFN2O2S
